US08217042B2
Preparation of 1-(3-benzylpyrido[2,3-b]pyrazin-6-yl]-3-ethylurea (Reaction According to Scheme 6)
2.4 ml of a 0.5 M solution of benzylzinc bromide (1.20 mmol) in THF and 24.7 mg of tetrakis(triphenylphosphine)palladium(0) (0.02 mmol) were initially charged in 1 ml of dioxane under nitrogen. Subsequently, 102.4 mg of 1-(3-chloropyrido[2,3-b]pyrazin-6-yl)-3-ethylurea (0.41 mmol) and 1 ml of dioxane were added in portions. The mixture was then heated to 100° C. After 7 h, the reaction mixture was allowed to cool and then saturated ammonium chloride solution was added. The aqueous phase was extracted repeatedly with dichloromethane and the collected organic phases were washed with saturated sodium chloride solution, dried over sodium sulphate and freed from the solvent under reduced pressure. Column chromatography purification on silica gel (dichloromethane/methanol eluent) afforded a yellow solid.

reactant | benzylzinc bromide | 1.20 mmol | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | 1-(3-chloropyrido[2,3-b]pyrazin-6-yl)-3-ethylurea | 0.41 mmol, 102.4 mg | ClC1=CN=C2C(=N1)N=C(C=C2)NC(=O)NCC | C10H10ClN5O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 24.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 1-(3-benzylpyrido[2,3-b]pyrazin-6-yl]-3-ethylurea | C(C1=CC=CC=C1)C1=CN=C2C(=N1)N=C(C=C2)NC(=O)NCC | C17H17N5O
